US07994196B2
An aqueous hydrobromide acid solution (2 M, 2 ml) was added to 5-bromo-2-chlorobenzyl alcohol (Aldrich Co., 1 g), and the mixture was stirred with heating at 70° C. for 1 hr. After completion of the reaction, the mixture was extracted three times with diethyl ether. The organic layer was dried and the solvent was evaporated under reduced pressure to give 5-bromo-2-chlorobenzylbromide (1.3 g).

reactant | hydrobromide | Br | BrH
reactant | 5-bromo-2-chlorobenzyl alcohol | 1 g | BrC=1C=CC(=C(CO)C1)Cl | C7H6BrClO
product | 5-bromo-2-chlorobenzylbromide | 1.3 g | BrC=1C=CC(=C(CBr)C1)Cl | C7H5Br2Cl
